US05151436
A mixture of (±)-2-(3-pyridyl)cyclopentanone (2.0 g) and benzyloxyamine hydrochloride (1.98 g) in anhydrous pyridine was stirred at 60° C. for 4.5 hours. The pyridine was removed in vacuo (40° C., 0.2 mmHg), the residue was dissolved in chloroform (75 ml), washed with water (4×75 ml), dried over magnesium sulphate and evaporated. The residual oil was purified by flash chromatography on silica, eluting with chloroform/methanol (100/1) to give (±)-2-benzyloxyimino -1-(3-pyridyl)cyclopentane (mixture of syn and anti isomers, 1:3), a pale yellow oil (2.91 g).

reactant | (±)-2-(3-pyridyl)cyclopentanone | 2.0 g | N1=CC(=CC=C1)C1C(CCC1)=O | C10H11NO
reactant | benzyloxyamine hydrochloride | 1.98 g | Cl.C(C1=CC=CC=C1)ON
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (±)-2-benzyloxyimino -1-(3-pyridyl)cyclopentane | C(C1=CC=CC=C1)ON=C1C(CCC1)C=1C=NC=CC1 | C17H18N2O
